US05750744
17β-cyclopropyloxy-androst-4-en-3-one (9.70 g, 29.5 5 mM), potassium tert-butoxide (7.0 g, 62.4 mM), and isopropyl nitrate (2.99 ml) are reacted by the method of Example 1 to yield 17β-cyclopropyloxy-4-nitroandrost-4-en-3-one, m.p. 137°-38° C. (methanol)

reactant | 17β-cyclopropyloxy-androst-4-en-3-one | 5 mM, 9.70 g | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C22H32O2
reactant | potassium tert-butoxide | 62.4 mM, 7.0 g | CC(C)([O-])C.[K+]
reactant | isopropyl nitrate | 2.99 ml | [N+](=O)(OC(C)C)[O-] | C3H7NO3
solvent | methanol | CO | CH4O
product | 17β-cyclopropyloxy-4-nitroandrost-4-en-3-one | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C(C(CC[C@]3(C)[C@H]1CC2)=O)[N+](=O)[O-] | C22H31NO4
